US07750003B2
3-Methyl-1-[4-[4-(2-methylsulfonylpropan-2-yl)-6-morpholin-4-yl-pyrimidin-2-yl]phenyl]urea
The following compounds were prepared in analogous fashion from either phenyl (4-{4-[1-methyl-1-(methylsulfonyl)ethyl]-6-morpholin-4-ylpyrimidin-2-yl}phenyl)carbamate or phenyl (4-{4-[1-methyl-1-(methylsulfonyl)ethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl}phenyl)carbamate and the appropriate amine.

reactant | phenyl (4-{4-[1-methyl-1-(methylsulfonyl)ethyl]-6-morpholin-4-ylpyrimidin-2-yl}phenyl)carbamate | CC(C)(S(=O)(=O)C)C1=NC(=NC(=C1)N1CCOCC1)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C25H28N4O5S
reactant | phenyl (4-{4-[1-methyl-1-(methylsulfonyl)ethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl}phenyl)carbamate | CC(C)(S(=O)(=O)C)C1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C26H30N4O5S
product | 3-Methyl-1-[4-[4-(2-methylsulfonylpropan-2-yl)-6-morpholin-4-yl-pyrimidin-2-yl]phenyl]urea | CNC(NC1=CC=C(C=C1)C1=NC(=CC(=N1)C(C)(C)S(=O)(=O)C)N1CCOCC1)=O | C20H27N5O4S
